US05569664
To a stirred solution of 5.0 grams (0.025 mole) of 4-phenoxybenzaldehyde and 4.0 grams (0.025 mole) of ethyl piperidin-4-ylcarboxylate in 25 mL of methanol was added 1.6 grams (0.025 mole) of sodium cyanoborohydride in one portion. Upon completion of addition, a methanolic solution saturated with hydrogen chloride was added dropwise until the pH of the reaction mixture was about 6.0. The reaction mixture was then stirred at ambient temperature for about 22 hours, after which the pH was again adjusted to about 5.5-6.0 with additional methanolic hydrogen chloride solution. The reaction mixture was poured into 350 mL of aqueous 0.1M potassium hydroxide solution. The mixture was extracted with three 125 mL portions of diethyl ether, and the combined extracts were washed with one portion of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue, which was subjected to column chromatography on silica gel, with 1:1 ethyl acetate/hexane as the eluant. The product-containing fractions were combined and concentrated, yielding 5.9 grams of ethyl N-(4-phenoxyphenylmethyl)piperidin-4-ylcarboxylate. The NMR spectrum was consistent with the proposed structure.

reactant | 4-phenoxybenzaldehyde | 0.025 mole, 5.0 grams | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | ethyl piperidin-4-ylcarboxylate | 0.025 mole, 4.0 grams | N1CCC(CC1)C(=O)OCC | C8H15NO2
reactant | sodium cyanoborohydride | 0.025 mole, 1.6 grams | C(#N)[BH3-].[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | potassium hydroxide | 0.1M | [OH-].[K+]
solvent | methanol | 25 mL | CO | CH4O
product | ethyl N-(4-phenoxyphenylmethyl)piperidin-4-ylcarboxylate | 5.9 grams | O(C1=CC=CC=C1)C1=CC=C(C=C1)CN1CCC(CC1)C(=O)OCC | C21H25NO3
